US08314100B2
1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(4-methoxyphenyl)piperazine (Compound 25)
Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate and 1-(4-methoxyphenyl)piperazine were reacted by the same way with the example 22 to obtain the titled compound (yield, 81%). 1H NMR (200 MHz, CDCl3): δ 3.16 (s, 4H), 3.78 (s, 3H), 4.16 (s, 4H), 6.88-6.93 (m, 4H), 7.27-7.80 (m, 4H).

reactant | Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12ClN3O3
reactant | 1-(4-methoxyphenyl)piperazine | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
product | 1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(4-methoxyphenyl)piperazine | 81% | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=CC=C(C=C1)OC | C21H22ClN5O3
